US06562849B1
5-[4-[6-(4-Amino-3,5-dimethylphenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride
A mixture of 5-[4-[6-(4-amino-3 ,5-dimethylphenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione (0.25 g) and 4N hydrogen chloride in ethyl acetate (50 ml) was stirred at room temperature for 24 hours. The insoluble product was filtered and washed with ethyl acetate to afford the desired product (0.25 g, mp 165-175° C.).

reactant | 5-[4-[6-(4-amino-3 ,5-dimethylphenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione | 0.25 g | NC1=C(C=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C1C)C | C27H26N4O4S
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 5-[4-[6-(4-Amino-3,5-dimethylphenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride | 0.25 g | Cl.Cl.NC1=C(C=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C1C)C | InChI=1S/C27H26N4O4S.2ClH/c1-15-10-20(11-16(2)25(15)28)35-19-8-9-21-22(13-19)31(3)24(29-21)14-34-18-6-4-17(5-7-18)12-23-26(32)30-27(33)36-23;;/h4-11,13,23H,12,14,28H2,1-3H3,(H,30,32,33);2*1H
